US07582631B2
(S)-{4-[5-(5-(2-Phenoxy-propyl)-(1S,4S)-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-imidazo[1,2-c]pyrimidin-7-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine
A solution of 50 mg (0.12 mmol) {4-[5-(2,5-diaza-bicyclo[2.2. I]hept-2-yl)-imidazo[1,2-c]pyrimidin-7-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine and 30 mg (0.24 mmol) potassium carbonate in 2 mL acetonitrile was treated with 0.040 mL (0.24 mmol) 3-phenoxy-propyl bromide at 0° C. The mixture was stirred at 50° C. for 16 h at which time MS showed that all starting materials had converted to product. The reaction mixture was cooled to ambient temperature, diluted with 50 mL DCM, washed with 50 mL satd. NaHCO3, and dried over anhydrous Na2SO4. After purification by BPLC, the title compound was obtained. MS (ES+): 546 (M+H)+.

reactant | {4-[5-(2,5-diaza-bicyclo[2.2. I]hept-2-yl)-imidazo[1,2-c]pyrimidin-7-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine | 0.12 mmol, 50 mg | C12N(CC(NC1)C2)C2=NC(=CC=1N2C=CN1)C1=CC(=NC=C1)NC(C)C1=CC=CC=C1 | C24H25N7
reactant | potassium carbonate | 0.24 mmol, 30 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 3-phenoxy-propyl bromide | 0.24 mmol, 0.040 mL | O(C1=CC=CC=C1)CCCBr | C9H11BrO
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | DCM | 50 mL | C(Cl)Cl | CH2Cl2
product | (S)-{4-[5-(5-(2-Phenoxy-propyl)-(1S,4S)-2,5-diaza-bicyclo[2.2.1]hept-2-yl)-imidazo[1,2-c]pyrimidin-7-yl]-pyridin-2-yl}-(1-phenyl-ethyl)-amine | O(C1=CC=CC=C1)C(CN1[C@@H]2CN([C@H](C1)C2)C2=NC(=CC=1N2C=CN1)C1=CC(=NC=C1)N[C@@H](C)C1=CC=CC=C1)C | C33H35N7O
